US06914059B2
b) (2R)-Methyl-3-oxo-6-(2,2,3,3,3-pentafluoropropylamino-methyl)-3,4-dihydro-2H-1,4-benzoxazine
712 mg (2.21 mmol) of (2R)-methyl-3-oxo-6-(2,2,3,3,3,-pentafluoropropylimino-methyl-3,4-dihydro-2H-1,4-benzoxazine is dissolved in 30 ml of methanol and mixed with 83.6 mg (2.21 mmol) of sodium borohydride. After stirring overnight at room temperature, the batch is added to water and shaken three times with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution, dried and spun in. After chromatography on silica gel (mobile solvent: ethyl acetate/hexane), 396.7 mg (55%) of the desired compound is obtained.

reactant | 2,2,3,3,3,-pentafluoropropylimino-methyl-3,4-dihydro-2H-1,4-benzoxazine | FC(CN=C1C(OC2=C(N1)C=CC=C2)C)(C(F)(F)F)F | C12H11F5N2O
reactant | sodium borohydride | 2.21 mmol, 83.6 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
product | (2R)-Methyl-3-oxo-6-(2,2,3,3,3-pentafluoropropylamino-methyl)-3,4-dihydro-2H-1,4-benzoxazine | 396.7 mg, 55% | C[C@H]1OC2=C(NC1=O)C=C(C=C2)CNCC(C(F)(F)F)(F)F | C13H13F5N2O2
